US09388195B2
C) Production of 6-(5-methyl-1H-pyrazol-4-yl)-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one
6-Bromo-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one (100 mg), tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (294 mg), sodium carbonate (95 mg), 1,2-dimethoxyethane (3.0 mL) and water (1.5 mL) were placed in a flask, and the atmosphere in the flask was purged with argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1) (26 mg) was added, and the atmosphere in the flask was purged again with argon. The reaction system was stirred at 100° C. for 3 hr, 8M aqueous sodium hydroxide solution (1 mL) was added, and the mixture was stirred at 100° C. for 30 min. After stirring, the mixture was extracted with ethyl acetate/tetrahydrofuran mixture, and the extract was dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate/hexane and methanol/ethyl acetate), and the obtained pale-yellow solid was crystallized from methanol/ethyl acetate to give the title compound (44 mg) as a pale-yellow solid.

reactant | 6-Bromo-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one | 100 mg | BrC1=CC=2N=C(NC(C2S1)=O)CN1CCCC1 | C11H12BrN3OS
reactant | tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 294 mg | CC1=NN(C=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C15H25BN2O4
reactant | sodium carbonate | 95 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 3.0 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | 6-(5-methyl-1H-pyrazol-4-yl)-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one | 44 mg | CC1=C(C=NN1)C1=CC=2N=C(NC(C2S1)=O)CN1CCCC1 | C15H17N5OS
